US05086065
t-Butyl 3-(1-hydroxy-4-trifluoroacetoamidobenzen-2-yl)propionate
t-Butyl 3-(1-hydroxy-4-aminobenzen-2-yl)propionate was disslolved in a mixture of tetrahydrofuran (100 ml) and triethylamine (7.1 ml). Anhydrous trifluoroacetic acid (6.0 ml) was added to the solution at 0° C. in an atmosphere of argon gas. The solution was stirred for 2 hr. at 0° C. The reaction solution was poured into a mixture of ice and 1N hydrochloric acid (100 ml). The reaction mixture was extracted with ethyl acetate (300 ml). The extract was washed with water, saturated aqueous solution of sodium bicarbonate, followed by brine, dried over anhydrous magnesium sulfate and evaporated. The residue was recrystallized from a mixture of ethyl acetate-n-hexane (1:5) to give the title compound having the following physical data.

reactant | t-Butyl 3-(1-hydroxy-4-aminobenzen-2-yl)propionate | OC1=C(C=C(C=C1)N)CCC(=O)OC(C)(C)C | C13H19NO3
reactant | trifluoroacetic acid | 6.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 7.1 ml | C(C)N(CC)CC | C6H15N
product | t-Butyl 3-(1-hydroxy-4-trifluoroacetoamidobenzen-2-yl)propionate | OC1=C(C=C(C=C1)NC(C(F)(F)F)=O)CCC(=O)OC(C)(C)C | C15H18F3NO4
